US08669374B2
1.4 2,3,3-Trimethyl-4,6-dicarboxy-3H-indole
A solution of 5-hydrazinylbenzene-1,3-dicarboxylic acid (30.0 g, 129 mmol), isopropylmethylketone (22.0 mL, 205 mmol) in acetic acid (300 mL) and was heated under reflux in an oil bath for 18 h. After cooling to ambient temperature the solvent was evaporated off under reduced pressure to a small volume of ˜100 mL. To the crude mixture was added iPrOH (200 mL) and the solid was collected with a filter funnel, washed with EtOAc (3×200 mL) and ethyl ether (2×200 mL) and dried. Further drying of the solid in an oven at 50° C. under high vacuum for 18 h provided 30.44 g (95.5%) of the product.

reactant | 5-hydrazinylbenzene-1,3-dicarboxylic acid | 129 mmol, 30.0 g | N(N)C=1C=C(C=C(C1)C(=O)O)C(=O)O | C8H8N2O4
reactant | isopropylmethylketone | 205 mmol, 22.0 mL | C(C)(C)C(=O)C | C5H10O
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 2,3,3-Trimethyl-4,6-dicarboxy-3H-indole | 30.44 g, 95.5% | CC1=NC2=CC(=CC(=C2C1(C)C)C(=O)O)C(=O)O | C13H13NO4
